US06362177B1
A mixture of (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4-chlorobenzyl)pyrrolidine (6.3 g, 11.4 mmol), Pd(OH)2 (1.68 g), HCO2H (3.7 mL), and methanol (80 mL) was stirred at 50° C. overnight. After the mixture was cooled to room temperature, the Pd catalyst was filtered off through Celite and the filtrate was concentrated. Column chromatography (SiO2, AcOEt, AcOEt/MeOH=5/1-4/1) gave (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine (4.42 g, 90%) as a white solid: 1H NMR (CDCl3, 400 MHz) δ1.48 (s, 9H), 2.0-2.4 (m, 2H), 3.42-3.71 (m, 5H), 4.00-4.22 (m, 2H), 4.56 (br, 1H), 7.48 (d, J=9.0 Hz, 1H), 7.93 (s, 1H), 8.17 (br, 1H), 8.33 (d, J=9.0 Hz, 1H), 8.45 (br, 1H).

reactant | (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4-chlorobenzyl)pyrrolidine | 11.4 mmol, 6.3 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)N[C@H]2CN(CC2)CC2=CC=C(C=C2)Cl)C=C(C=C1)C(F)(F)F | C26H30ClF3N4O4
reactant | HCO2H | 3.7 mL | C(=O)O | CH2O2
catalyst | Pd(OH)2 | 1.68 g | [OH-].[OH-].[Pd+2]
solvent | methanol | 80 mL | CO | CH4O
product | (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine | 4.42 g, 90% | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)N[C@H]2CNCC2)C=C(C=C1)C(F)(F)F | C19H25F3N4O4
